US07820680B2
Step 2: Ethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetate
The lower Rf isomer of ethyl 5-benzyloxycarbonyl-2-(4-fluorobenzyl)-3-oxo-2,5-diazabicyclo[4.1.0]heptane-7-carboxylate (7.5 g, 17.5 mmol) and 10% palladium on carbon (940 mg; 0.05 mmol) in ethanol (200 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The product mixture was filtered through a pad of Celite, and concentrated under vacuum to provide the title compound. The structure was assigned by the analysis of HMQC, gHMBC and ROESY spectra. 1H NMR (400 MHz, CDCl3) δ 7.24 (dd, J=8.4, 5.3 Hz, 2H), 7.01 (t, J=8.6 Hz, 2H), 5.22 (d, J=15.0 Hz, 1H), 4.13 (q, J=7.2 Hz, 2H), 3.95 (d, J=14.8 Hz, 1H), 3.64-3.80 (m, 1H), 3.61 (d, J=4.5 Hz, 2H), 2.95-3.06 (m, 2H), 2.84 (dd, J=16.1, 9.4 Hz, 1H), 2.59 (dd, J=16.1, 2.4 Hz, 1H), 1.26 (t, J=7.2 Hz, 3H). ES MS (M+1)=295.32.

reactant | ethyl 5-benzyloxycarbonyl-2-(4-fluorobenzyl)-3-oxo-2,5-diazabicyclo[4.1.0]heptane-7-carboxylate | 17.5 mmol, 7.5 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C2C(C12)C(=O)OCC)CC1=CC=C(C=C1)F)=O | C23H23FN2O5
catalyst | palladium on carbon | 0.05 mmol, 940 mg | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | Ethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetate | FC1=CC=C(CN2C(CNCC2=O)CC(=O)OCC)C=C1 | C15H19FN2O3
